US03992441
2-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoyl chloride
2-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic acid (6.0 g.) is refluxed for 21/2 hours with 50 ml. of thionyl chloride, and then taken todryness. The residue is triturated with 200 ml. of hot benzene-hexane (1:1), filtered and evaporated to obtain the dry product, m.p. 164°-166.5° C.

reactant | 2-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoic acid | 6.0 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CC(CC(C1)C)C | C14H18ClNO4S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-5-(3,5-dimethylpiperidinosulfonyl)benzoyl chloride | ClC1=C(C(=O)Cl)C=C(C=C1)S(=O)(=O)N1CC(CC(C1)C)C | C14H17Cl2NO3S
